US05026913
2-Amino-1-(2-mercapto-2-methylpropylamino)benzene (0.43 g, 2.19×10-3 mol) and 0.82 g (5.19×10-3 mol, 237 M %) 2-cyclopropylmethylthio-2-methylpropanal were reacted by the method of Example 2 to yield 0.63 g (85%) of 1-(2-cyclopropylmethylthio-2-methylpropylamino)-2-(2-mercapto-2-methylpropylamino)benzene as an oily product after purification by filtration through flash silica in a 350 ml sintered glass funnel, eluting with 200 ml portions of 2×100% hexane, 3×90% hexane/ether, 2×80% hexane/ether.

reactant | 2-Amino-1-(2-mercapto-2-methylpropylamino)benzene | 2.19×10-3 mol, 0.43 g | NC1=C(C=CC=C1)NCC(C)(C)S | C10H16N2S
reactant | 2-cyclopropylmethylthio-2-methylpropanal | 5.19×10-3 mol, 237 M, 0.82 g | C1(CC1)CSC(C=O)(C)C | C8H14OS
product | 1-(2-cyclopropylmethylthio-2-methylpropylamino)-2-(2-mercapto-2-methylpropylamino)benzene | 0.63 g, 85% | C1(CC1)CSC(CNC1=C(C=CC=C1)NCC(C)(C)S)(C)C | C18H30N2S2
